### PR TITLE
feat: add `DFinsupp.mapDomain` to match `Finsupp.mapDomain`

### PR DESCRIPTION
**Pull request by eric-wieser**
The API for `DFinsupp.mapDomain` is copied from `Finsupp.mapDomain`.

One motivation here is to make it easier to swap out either Basis or AddMonoidAlgebra to use DFinsupp and thus become computable.

---

- [x] depends on: #40326

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/DFinsupp/Defs.lean [hunk 1]
```diff
@@ -125,16 +125,26 @@ theorem mapRange_apply (f : ∀ i, β₁ i → β₂ i) (hf : ∀ i, f i 0 = 0)
...
-theorem mapRange_id (h : ∀ i, id (0 : β₁ i) = 0 := fun _ => rfl) (g : Π₀ i : ι, β₁ i) :
-    mapRange (fun i => (id : β₁ i → β₁ i)) h g = g := by
+theorem mapRange_fun_id (g : Π₀ i : ι, β₁ i) :
+    mapRange (fun _ x => x) (fun _ => rfl) g = g := by
   ext
   rfl
 
+@[simp]
+theorem mapRange_id (g : Π₀ i : ι, β₁ i) :
+    mapRange (fun i => (id : β₁ i → β₁ i)) (fun _ => rfl) g = g :=
```
Comment (YaelDillies) [inline Mathlib/Data/DFinsupp/Defs.lean:135]:
```suggestion
@[to_fun (attr := simp) mapRange_fun_id]
theorem mapRange_id (g : Π₀ i : ι, β₁ i) :
    mapRange (fun i => (id : β₁ i → β₁ i)) (fun _ => rfl) g = g :=
```

File: Mathlib/Data/DFinsupp/Defs.lean [hunk 2]
```diff
@@ -125,16 +125,26 @@ theorem mapRange_apply (f : ∀ i, β₁ i → β₂ i) (hf : ∀ i, f i 0 = 0)
...
+  mapRange_fun_id g
+
+theorem mapRange_fun_comp (f : ∀ i, β₁ i → β₂ i) (f₂ : ∀ i, β i → β₁ i) (hf : ∀ i, f i 0 = 0)
+    (hf₂ : ∀ i, f₂ i 0 = 0) (h : ∀ i, f i (f₂ i 0) = 0) (g : Π₀ i : ι, β i) :
+    mapRange (fun i x => f i (f₂ i x)) h g = mapRange f hf (mapRange f₂ hf₂ g) := by
+  ext
+  simp only [mapRange_apply]
+
 theorem mapRange_comp (f : ∀ i, β₁ i → β₂ i) (f₂ : ∀ i, β i → β₁ i) (hf : ∀ i, f i 0 = 0)
```
Comment (YaelDillies) [inline Mathlib/Data/DFinsupp/Defs.lean:144]: Same here

File: Mathlib/Data/DFinsupp/Basic.lean
Comment (YaelDillies) [inline Mathlib/Data/DFinsupp/Basic.lean:1]: Should it not be `Map`?

File: Mathlib/Data/DFinsupp/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,390 @@
...
+    mapDomain f x a = 0 := by
+  classical
+  rw [mapDomain_eq_sum, sum_apply, sum]
+  exact Finset.sum_eq_zero fun a' _ => single_eq_of_ne fun eq => h <| eq ▸ Set.mem_range_self _
+
+@[simp]
+theorem mapDomain_fun_id (x : Π₀ b, M b) : mapDomain (·) x = x :=
+  congr($(sumAddHom_singleAddHom) x)
+
+/-- Note that `x` the RHS is mildly type-incorrect. -/
```
Comment (YaelDillies) [inline Mathlib/Data/DFinsupp/Basic.lean:156]:
```suggestion
/-- Note that `x` in the RHS is mildly type-incorrect. -/
```

File: Mathlib/Data/DFinsupp/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,390 @@
...
+@[simp]
+theorem mapDomain_id (x : Π₀ b, M (id b)) :
+    mapDomain id x = x :=
```
Comment (YaelDillies) [inline Mathlib/Data/DFinsupp/Basic.lean:159]: Doesn't that mean we shouldn't have this lemma?

File: Mathlib/Data/DFinsupp/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,390 @@
...
+  cases s_inner with | _ s hs =>
+  generalize_proofs hp
+  by_cases ha : a ∈ s
+  · have h_find : s.find? _ hp = some a := by grind
+    grind
+  · split
+    · grind
+    · exact (hs a).resolve_left ha |>.symm
+
+lemma embDomain_notin_range (f : α ↪ β) (v : Π₀ a, M (f a)) {b : β} (hb : b ∉ Set.range f) :
```
Comment (YaelDillies) [inline Mathlib/Data/DFinsupp/Basic.lean:86]: Let's not spread poor naming
```suggestion
lemma embDomain_of_notMem_range (f : α ↪ β) (v : Π₀ a, M (f a)) {b : β} (hb : b ∉ Set.range f) :
```
See #41766 for the `Finsupp` rename

File: Mathlib/Data/DFinsupp/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,390 @@
...
+
+end EmbDomain
+
+section MapDomain
+variable [∀ b, AddCommMonoid (M b)] [AddCommMonoid N]
+variable [DecidableEq α] [DecidableEq β] [DecidableEq γ]
+
+/-- Given `f : α → β` and `v : Π₀ a, M (f a)`, `mapDomain f v : Π₀ b : β, M b`
+  is the finitely supported function whose value at `a : β` is the sum
+  of `v x` over all `x` such that `f x = a`. -/
```
Comment (YaelDillies) [inline Mathlib/Data/DFinsupp/Basic.lean:121]:
```suggestion
is the finitely supported function whose value at `a : β` is the sum
of `v x` over all `x` such that `f x = a`. -/
```

File: Mathlib/Data/DFinsupp/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,390 @@
...
+    mapDomain f (single a b) = single (f a) b :=
+  sumAddHom_single _ _ _
+
+@[simp]
+theorem mapDomain_zero {f : α → β} : mapDomain f (0 : Π₀ a, M (f a)) = 0 :=
+  map_zero _
+
+theorem mapDomain_congr {f g : α → β} [(x : N) → Decidable (x ≠ 0)]
+    (v : Π₀ _ : α, N) (h : ∀ x ∈ v.support, f x = g x) :
+    v.mapDomain f = (mapDomain g v : Π₀ _ : β, N) := by
```
Comment (YaelDillies) [inline Mathlib/Data/DFinsupp/Basic.lean:185]: I suggest
```suggestion
@[congr]
theorem mapDomain_congr {f g : α → β} [(x : N) → Decidable (x ≠ 0)]
    (v : Π₀ _ : α, N) (h : ∀ x ∈ v.support, f x = g x) :
    v.mapDomain f = (mapDomain g v : Π₀ _ : β, N) := by
```
to match #39575

File: Mathlib/Data/DFinsupp/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,390 @@
...
+  erw [mapRange_fun_id]
+
+theorem mapDomain_add {f : α → β} (v₁ v₂ : Π₀ a, M (f a)) :
+    mapDomain f (v₁ + v₂) = mapDomain f v₁ + mapDomain f v₂ :=
+  map_add _ _ _
+
+lemma mapDomain_sub {M : β → Type*} [∀ b, AddCommGroup (M b)]
+    {f : α → β} (v₁ v₂ : Π₀ a, M (f a)) :
+    mapDomain f (v₁ - v₂) = mapDomain f v₁ - mapDomain f v₂ :=
+  map_sub _ _ _
```
Comment (YaelDillies) [inline Mathlib/Data/DFinsupp/Basic.lean:203]: Any reason not to make this simp?

**Review by YaelDillies — COMMENTED** [review]
I am worried that striving for local consistency here means you are spreading some bad design choices about `Finsupp`.

File: Mathlib/Data/DFinsupp/Basic.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Data/DFinsupp/Basic.lean:159]: I tried adding the correct version with suitable casting, but `simp` simplifies the `id` in the type anyway and changes it to this form.

Comment (YaelDillies) [reply Mathlib/Data/DFinsupp/Basic.lean:159]: Surely this is a bug?
